US04016160
7-Amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (3.28 g) was suspended in a mixture (60 ml) of water and acetone (1:1) and sodium bicarbonate was added to the suspension little by little to give a solution. Dichloroacetyl chloride (3 g) was added dropwise to the solution at -5° C under stirring and the mixture was stirred at the same temperature for 30 minutes. Ethyl acetate (50 ml) was added to the reaction mixture and the mixture was adjusted to pH 2 with diluted hydrochloric acid under stirring and filtered. The ethyl acetate layer was separated from the filtrate, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and then treated with activated charcoal powder. Ethyl acetate was distilled off from the solution under reduced pressure. Ether was added to the residue and the mixture was stirred overnight. Precipitates were collected by filtration to give pale yellow powder of 7-dichloroacetamido-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (1.5 g).

reactant | 7-Amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 3.28 g | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Dichloroacetyl chloride | 3 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | hydrochloric acid | Cl | ClH
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 60 ml | O | H2O
product | 7-dichloroacetamido-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.5 g | ClC(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)Cl | C12H12Cl2N6O4S2
